US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (17.5 ml of a 0.0155 M solution, 0.27 mmol) was treated with piperidine (1.0 ml, 10.0 mmol) for 3 days. The ethanol was evaporated, and the residue purified by reverse phase HPLC to afford 26 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(imino(piperidin-1-yl)methyl)benzamide. MS (Q1) 419 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | piperidine | 10.0 mmol, 1.0 ml | N1CCCCC1 | C5H11N
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(imino(piperidin-1-yl)methyl)benzamide | 26 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(N1CCCCC1)=N)=O)C1=NC=CC=C1 | C24H23ClN4O
